US06172076B2
Preparation of 1-(3-Methylphenyl)-1,3,8-triazaspiro[4.5]-decan-4-one
A mixture of 8-benzyl-1-(3-methylphenyl)-1,3,8-triazaspiro[4.5]dec-2-en-4-one (1.64 g, 4.9 mmol) and 10% palladium on charcoal (0.8 g) in a mixture of methanol (100 mL) and methanol saturated with anhydrous hydrochloride gas (5 mL) was shaken in a Parr hydrogenator at 55 psi for 24 h. The resultant mixture was filtered through a plug of Celite, and the filtrate concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with a 1:1 mixture of 10% methanol in chloroform and chloroform saturated with ammonia gas. Collection and concentration of appropriate fractions provide the title compound.

reactant | 8-benzyl-1-(3-methylphenyl)-1,3,8-triazaspiro[4.5]dec-2-en-4-one | 4.9 mmol, 1.64 g | C(C1=CC=CC=C1)N1CCC2(C(N=CN2C2=CC(=CC=C2)C)=O)CC1 | C21H23N3O
reactant | hydrochloride | 5 mL | Cl | ClH
catalyst | palladium on charcoal | 0.8 g | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
product | 1-(3-Methylphenyl)-1,3,8-triazaspiro[4.5]-decan-4-one | CC=1C=C(C=CC1)N1CNC(C12CCNCC2)=O | C14H19N3O
